US06825188B2
a) Preparation of methyl(±)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
According to the procedure of Example 1(a), except substituting 3-(4-nitrobenzyloxycarbonylamino)-1-propanol for the 2-[(3-hydroxy-1-propyl)amino]pyridine-N-oxide, and substituting methyl (±)-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the tile compound was prepared as a colorless oil: MS (ES) m/e 500.3 (M+H)+.

reactant | 3-(4-nitrobenzyloxycarbonylamino)-1-propanol | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCO)C=C1 | C11H14N2O5
reactant | 2-[(3-hydroxy-1-propyl)amino]pyridine-N-oxide | OCCCNC1=[N+](C=CC=C1)[O-] | C8H12N2O2
reactant | methyl (±)-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | OC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C14H17NO4
reactant | methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | OC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C13H15NO4
product | methyl(±)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCOC2=CC3=C(CC(C(N(C3)C)=O)CC(=O)OC)C=C2)C=C1 | C25H29N3O8
